US07423030B2
3.2. 5-methoxy-2-(4-methoxybenzoyl)benzoic acid
A solution of 18.5 g (80 mmol) of 2-bromo-5-methoxybenzoic acid in 150 mL of tetrahydrofuran is stirred under nitrogen at −78° C. in a bath of cardice/acetone. 100 mL (160 mmol) of a 1.6M solution of n-butyllithium in hexane are added dropwise over about 1 hour, while taking care to ensure that the temperature does not exceed −70° C. About half way through the introduction, the formation of a beige-coloured precipitate that corresponds to the formation of the lithium carboxylate is noted. After the addition, the mixture is stirred at −78° C. for 1 hour, and a solution of 15.9 g (80 mmol) of N,4-dimethoxy-N-methylbenzamide in 20 mL of THF is added dropwise. The reaction medium is stirred at −78° C. for 1 hour and the bath of cardice/acetone is then removed and the reaction medium is stirred, while allowing the temperature to return gradually to room temperature, for 18 hours. The mixture is hydrolysed with 100 mL of water, basified to pH=12 with 2N NaOH solution and then extracted with tert-butyl methyl ether. The aqueous phase containing the carboxylate is acidified with 5N HCl solution to pH 1 and extracted with dichloromethane. The dichloromethane phase is washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated. The product is crystallized from isopropyl ether; after filtering and drying, 14.6 g of white crystals are obtained (yield=64%).

reactant | 2-bromo-5-methoxybenzoic acid | 80 mmol, 18.5 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | cardice acetone | C(=O)=O.CC(=O)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,4-dimethoxy-N-methylbenzamide | 80 mmol, 15.9 g | CON(C(C1=CC=C(C=C1)OC)=O)C | C10H13NO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-methoxy-2-(4-methoxybenzoyl)benzoic acid | 14.6 g, yield=64% | COC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)OC)=O | C16H14O5
